US06897224B2
5-[4-(5-Chloro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]quinoline-2-carboxylic acid methyl ester
Analogously to Example 37, 160 mg (0.47 mmol) of 4-(5-chloro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal is reacted with 116 mg (0.57 mmol) of 5-aminoquinoline-2-carboxylic acid methyl ester in 1.0 ml of concentrated acetic acid and 20 ml of toluene. After working-up and purification on silica gel with hexane-ethyl acetate (0-100%), 110 mg (45% of theory) of the product is obtained.

reactant | 4-(5-chloro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 0.47 mmol, 160 mg | ClC=1C=C(C2=C(CCO2)C1)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H16ClF3O3
reactant | 5-aminoquinoline-2-carboxylic acid methyl ester | 0.57 mmol, 116 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N | C11H10N2O2
solvent | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[4-(5-Chloro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentylidenamino]quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC=CC(=C2C=C1)N=CC(CC(C)(C)C1=CC(=CC=2CCOC21)Cl)(C(F)(F)F)O | C26H24ClF3N2O4
